US05578624
Decanoic acid 1,1-diethyl-3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-propyl ester hydrochloride
To a solution of 6-fluoro-3-[1-(3-hydroxy-3-ethylpentyl)-4-piperidinyl]-1,2-benzisoxazole (2.5 g, 7.48 mmol) in DCM (100 ml) was added decanoyl chloride (1.5 ml, 7.48 mmol) at 0 C., under nitrogen. The reaction mixture was stirred for 4 days at which time it was poured into NaHCO3 (sat., 50 ml). The layers were separated and the aqueous phase was extracted with DCM (2X). The combined organics were dried, filtered and concentrated to give the crude product which was purified via flash column chromatography (silica gel, 20-40% EtOAc/DCM). The product containing fractions were concentrated to give 3.0 g (81%) of the desired product as a yellow oil. The hydrochloride salt was prepared in anhydrous ether (60 ml) and isopropanol (1 ml) with ethereal HCl. The white salt was filtered and washed with anhydrous ether, m.p.=159°-161° C.

reactant | 6-fluoro-3-[1-(3-hydroxy-3-ethylpentyl)-4-piperidinyl]-1,2-benzisoxazole | 7.48 mmol, 2.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(CC)(CC)O)C=C1 | C19H27FN2O2
reactant | decanoyl chloride | 7.48 mmol, 1.5 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Decanoic acid 1,1-diethyl-3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-propyl ester hydrochloride | 3.0 g, 81% | Cl.C(C)C(CCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F)(CC)OC(CCCCCCCCC)=O | InChI=1S/C29H45FN2O3.ClH/c1-4-7-8-9-10-11-12-13-27(33)34-29(5-2,6-3)18-21-32-19-16-23(17-20-32)28-25-15-14-24(30)22-26(25)35-31-28;/h14-15,22-23H,4-13,16-21H2,1-3H3;1H
